US07645771B2
A mixture of tert-butyl 4-oxo-1-piperidinecarboxylate (25.25 g, 127 mmol), ethyl cyanoacetate (13.8 ml, 130 mmol), ammonium acetate (2.73 g, 35.4 mmol), glacial acetic acid (6.3 ml) and benzene (250 ml) was heated for 4 hours at reflux under Dean Stark conditions. The reaction mixture was cooled to room temperature and washed successively with water, sodium bicarbonate solution and brine. Drying, filtration and evaporation of the organic phase provided tert-butyl 4-(1-cyano-2-ethoxy-2-oxoethylidene)piperidine-1-carboxylate as an oil that crystallized on standing (37 g, 99%). 1H NMR (400 MHz, CDCl3): δ 4.28 (q, 2H, J=7 Hz), 3.60 (br t, 2H, J=6 Hz), 3.54 (br t, 2H, J=6 Hz), 3.12 (t, 2H, J=6 Hz), 2.76 (t, 2H, J=6 Hz), 1.47 (s, 9H), and 1.35 (t, 3H, J=7 Hz). ES-LCMS m/z 293 (M−1).

reactant | tert-butyl 4-oxo-1-piperidinecarboxylate | 127 mmol, 25.25 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | ethyl cyanoacetate | 130 mmol, 13.8 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | 35.4 mmol, 2.73 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 6.3 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | tert-butyl 4-(1-cyano-2-ethoxy-2-oxoethylidene)piperidine-1-carboxylate | C(#N)C(C(=O)OCC)=C1CCN(CC1)C(=O)OC(C)(C)C | C15H22N2O4
